US06653499B1
A mixture of 10.0 g 1,2,3-tris(10-bromodecanoyloxy)propane, 4.6 g 4-hydroxybenzaldehyde, 52.4 g anhydrous potassium carbonate and 250 ml ethyl-methyl ketone is heated under gentle reflux overnight. The reaction mixture is filtered to remove inorganic material and the filtrate evaporated down. The residue is purified by column chromatography on silica gel using hexane/ethyl acetate (1/1 v/v) as eluent and recrystallisation from acetonitrile to yield 8.1 g of 1,2,3-tris(10-[4formylphenoxy]decanoyloxy)propane.

reactant | 1,2,3-tris(10-bromodecanoyloxy)propane | 10.0 g | BrCCCCCCCCCC(=O)OCC(COC(CCCCCCCCCBr)=O)OC(CCCCCCCCCBr)=O | C33H59Br3O6
reactant | 4-hydroxybenzaldehyde | 4.6 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 52.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl-methyl ketone | 250 ml | C(C)C(=O)C | C4H8O
product | 1,2,3-tris(10-[4formylphenoxy]decanoyloxy)propane | 8.1 g | C(=O)C1=CC=C(OCCCCCCCCCC(=O)OCC(COC(CCCCCCCCCOC2=CC=C(C=C2)C=O)=O)OC(CCCCCCCCCOC2=CC=C(C=C2)C=O)=O)C=C1 | C54H74O12
